US06403791B1
4-Difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid (4-cyano-2-methyl-2H-pyrazol-3-yl)-amide
Sodium bis(trimethylsilyl)amide (0.53 ml) was added to a solution of 5-amino-1-methyl-1H-pyrazole-4-carbonitrile (65 mg) in N,N-dimethylformamide (5 ml) at room temperature under an atmosphere of nitrogen. The mixture was stirred for 10 minutes before addition of 4-difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid 4-nitrophenyl ester (100 mg), then for 90 minutes. It was quenched with water (1 ml) and the solvent removed in vacuo. Purification by column chromatography on silica eluting with 2:1 heptane-ethyl acetate afforded the title compound as a white solid (25 mg).

reactant | Sodium bis(trimethylsilyl)amide | 0.53 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 5-amino-1-methyl-1H-pyrazole-4-carbonitrile | 65 mg | NC1=C(C=NN1C)C#N | C5H6N4
reactant | 4-difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid 4-nitrophenyl ester | 100 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C1=CC=C(C=2N=C(OC21)CC)OC(F)F | C17H12F2N2O6
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-Difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid (4-cyano-2-methyl-2H-pyrazol-3-yl)-amide | 25 mg | C(#N)C1=C(N(N=C1)C)NC(=O)C1=CC=C(C=2N=C(OC21)CC)OC(F)F | C16H13F2N5O3
